*TB AHUJA_FDA — closed-loop unity-gain (R1=Rf=10k) for SR & swing
.include ../../../work/xsch/AHUJA_FDA.spice
.option TNOM=27 reltol=1e-4 abstol=1e-12 vntol=1e-7 noopiter gminsteps=20 itl1=300 itl4=200

.param vcm   = '{VCM}'
.param vamp  = 0.5    $ differential half-step => vid = +/- 1V step
.param tr    = 0.1n
.param tper  = 2u
.param tper2 = '2*tper'

VSS    VSS    0    dc 0
VDD    VDD    0    dc {vdda}
VVCM   VCM    0    dc {vcm}

* Symmetric differential step via PWL: vid 0 -> +0.6 -> -0.6 (vod 0 -> -0.6 -> +0.6)
VINP   srcp   VCM  pwl(0 0  0.499u 0  0.5u 0.3   1.499u 0.3   1.5u -0.3   3u -0.3)
VINN   srcn   VCM  pwl(0 0  0.499u 0  0.5u -0.3  1.499u -0.3  1.5u 0.3    3u 0.3)

* 4R unity-gain inverting feedback (R1 = Rf = 10k)
R1P    srcp   VIN  10k
RFP    VOP    VIN  10k
R1N    srcn   VIP  10k
RFN    VON    VIP  10k

RIBIAS_TIE  IBIAS    VSS 1G
RCMFB_PROBE nVcmfb   0   1G

CLP    VOP    VSS  10p
CLN    VON    VSS  10p

.include ../xdut.spi

* Strong .ic for tran-uic startup
.ic v(vop)={vcm} v(von)={vcm} v(nvcmfb)=0.93
.ic v(vin)={vcm} v(vip)={vcm}
.ic v(srcp)={vcm} v(srcn)={vcm}
.ic v(xdut.ntail)=0.15 v(xdut.apos)=0.78 v(xdut.aneg)=0.78
.ic v(xdut.bpos)=1.59  v(xdut.bneg)=1.59
.ic v(xdut.vbd)=0.93   v(xdut.vbc)=0.73 v(IBIAS)=0.86
.ic v(xdut.v_cms)={vcm} v(xdut.n_diode)=0.55 v(xdut.stail_cm)=1.50

.nodeset v(xdut.ntail)    = 0.15
.nodeset v(xdut.aneg)     = 0.78
.nodeset v(xdut.apos)     = 0.78
.nodeset v(xdut.bneg)     = 1.59
.nodeset v(xdut.bpos)     = 1.59
.nodeset v(vop)           = {vcm}
.nodeset v(von)           = {vcm}
.nodeset v(xdut.vbd)      = 0.93
.nodeset v(xdut.vbc)      = 0.73
.nodeset v(IBIAS)         = 0.86
.nodeset v(nvcmfb)        = 0.93
.nodeset v(xdut.v_cms)    = {vcm}
.nodeset v(xdut.n_diode)  = 0.55
.nodeset v(xdut.stail_cm) = 1.50

.save v(vop) v(von) v(srcp) v(srcn) v(nvcmfb)

.control
set num_threads=8
unset askquit
set filetype=ascii

op
print v(vop) v(von) v(nvcmfb)

save all
* Tran with reasonable max step
tran 2n 3u 0 5n

let vod    = v(vop) - v(von)
let vid    = v(srcp) - v(srcn)
let vocm   = 0.5*(v(vop) + v(von))

* vod waveform: 0 (t<0.5u), -0.6V nom (0.5u<t<1.5u), +0.6V nom (1.5u<t<3u)
meas tran tf30 when vod=-0.18 fall=1 td=400n
meas tran tf70 when vod=-0.42 fall=1 td=400n
let sr_neg = abs(0.24 / (tf70 - tf30))

meas tran tr30 when vod=-0.42 rise=1 td=1.4u
meas tran tr70 when vod=0.42  rise=1 td=1.4u
let sr_pos = abs(0.84 / (tr70 - tr30))

let sr_avg = 0.5*(sr_pos + sr_neg)

* --- Output swing (raw min/max during transient) ---
meas tran vop_max max v(vop) from=400n to=2.9u
meas tran vop_min min v(vop) from=400n to=2.9u
meas tran von_max max v(von) from=400n to=2.9u
meas tran von_min min v(von) from=400n to=2.9u
meas tran vod_pos avg vod from=2.5u to=2.9u
meas tran vod_neg avg vod from=1.0u to=1.4u

* --- 1% settling: time after rising edge for vod to enter 99% of final ---
* Use a small fraction of measured final value
meas tran vod_set find vod when time=2.9u
meas tran t_s99 when vod='0.99*vod_set' rise=1 td=1.5u

echo "==== Unity-gain results ===="
print sr_pos sr_neg sr_avg
print vop_max vop_min von_max von_min
print vod_pos vod_neg
print t_s99

let vocm_max_v = vecmax(vocm)
let vocm_min_v = vecmin(vocm)
let vod_max_v  = vecmax(vod)
let vod_min_v  = vecmin(vod)
print vocm_max_v vocm_min_v vod_max_v vod_min_v

quit
.endc
.end
